Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Iodine / Glucocorticoids,Systemic Classifier / 
Dilaudid
 
Attending: ___
 
Chief Complaint:
cellulitis, leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with metastatic renal 
cellcarcinoma, currently receiving Sunitinib who presents to the 
ER with lumbar incision and increased leg pain, swelling, and 
redness. Patient previously had L4-S1 fusion with partial 
sacrectomy and sacro-iliac screw placement ___ ___. This was 
followed by radiation
therapy. He had been doing well until 2 weeks ago when he 
started
developing increased posterior leg pain into the calf 
bilaterally. At the same time he began having swelling and 
redness at his surgical
site that has become worse which he noticed because it felt 
itchy.  He denies any trauma to the area.  He went to the ER ___ 
___ where he had a CT of the area that showed his tumor 
increased ___ size from their previous scan.  He was also told he 
had a "pelvis fracture" but was not told of any limitations on 
activity or need for follow-up.  He also notes superficial 
drainage from the posterior aspect of his wound. 
.
___ the ER vitals 98.2 (Oral), Pulse: 53, RR: 16, BP: 114/87, 
O2Sat: 99%ra.  He received Vancomycin 1g IV, MRI of the abdomen. 
 On arrival to the floor, he feels faily well overall but 
noticed increased pain on his legs and some on his back.  
.
This morning, patient feels well.  States that his pain is well 
controlled at ___ when lying still and somewhat worse with 
moving.  No sob, no chest pain, no dysuria, no headache.
 
Past Medical History:
ONCOLOGIC HISTORY:
- ___: the patient developed hematuria, 40 pounds weight
loss, fevers and chills. 
- ___: a CT scan showed a heterogeneous nodular
infiltration of the left kidney measuring 8.6 x 8.8 cm with no
evidence of obstruction. A bone scan on ___ was
negative. 
-___: underwent an open radical nephrectomy; final
pathology showing a 8.5 x 6 x 6 cm clear cell renal cell
carcinoma, stage pT2N0Mx ___ grade IV. As he was recovering
from surgery, he developed gradually worsening pain radiating
down his right leg, beginning ___ the right hip. A MRI was
obtained showing a lytic lesion at the right sacral ala
concerning for metastasis.  
- ___ underwent CT-guided bone biopsy; pathology
confirming metastatic renal cell carcinoma.
- ___ received cycle 1 week 1 high-dose IL-2 therapy
complicated by pulmonary edema, acute renal failure and toxic
encephalopathy. His symptoms of right hip pain improved briefly
following his IL-2 but his restaging CT's showed that his right
pelvic met had grown ___ size.  
 ___ Cyberknife radiation to his right hip
 ___ partial sacrectomy followed by instrumental sacral
reconstruction on ___
-___ MRI lumbar spine showed substantial progression of the
sacral mass
-___ cyberknife treatment of the right sacral mass
- ___: began Sunitinib 50 mg which he took for 3 weeks, then
dose reduced to 37.5 mg due to symptoms of nausea, fatigue,
depression; ___ cycle of Sutent at lower dose
- ___: cycle 3 of Sutent at 50 mg daily for 4 weeks on, 2
weeks off

PAST MEDICAL HISTORY:
1.  History of recurrent kidney stones dating as far back as 
___.
2. Asymptomatic bradycardia which was thoroughly evaluated by
cardiology and no therapy was indicated.  Of note, during
anesthesia for his nephrectomy, he required atropine for 
bradycardia.
3.  GERD.
4.  Degenerative disc disease ___ the C-spine region.
5.  Hypothyroidism 
6.  Depression

 
Social History:
___
Family History:
The patient's mother is alive at ___.  He does not know his
biological father.  Patient's mother had some thyroid problems. 
His maternal grandmother had a brain tumor.  His children are
healthy.

 
Physical Exam:
Physical Exam on Admission:
VS: T 98.2  bp 113/73  HR 55  RR 18  SaO2 99 RA
GEN: NAD, awake, alert  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple, obese
CV: Reg rate and rhythm, normal S1, S2. No m/r/g.   
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND, no HSM, bowel sounds present
MSK: normal muscle tone and bulk
BACK: area above incision is tender, red and tender.  Warm 
erythema around wound 1 to 5 cm from scar; black line drawn 
around perimeter.
SKIN: warm skin
NEURO: oriented x 3, normal attention, CN II-XII intact, see 
neuurosurgery note for complete exam
PSYCH: appropriate
.
Physical Exam on Discharge:
VS: T 97.4 Tm 98.4 BP 106/62 HR 61 RR 16 O2 98% RA
GEN: NAD, awake, alert  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple, obese
CV: Reg rate and rhythm, normal S1, S2. No m/r/g.   
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND, no HSM, bowel sounds present
MSK: normal muscle tone and bulk
BACK: area above incision is minimally erythematous and mildly 
tender, not warm, much improved since admission improved;
SKIN: warm skin
NEURO: oriented x 3, normal attention

 
Pertinent Results:
___ 09:42PM   LACTATE-0.9
___ 09:40PM   GLUCOSE-97 UREA N-14 CREAT-0.8 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-28 ANION GAP-10
___ 09:40PM   WBC-3.0* RBC-3.14* HGB-8.1* HCT-26.0* MCV-83 
MCH-25.9* MCHC-31.3 RDW-18.4*
___ 09:40PM   NEUTS-57.6 ___ MONOS-4.8 EOS-4.4* 
BASOS-0.3
___ 09:40PM   PLT COUNT-113*
___ 09:40PM   ___ PTT-29.9 ___
___ 07:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 07:00PM URINE  RBC-3* WBC-5 BACTERIA-FEW YEAST-NONE 
EPI-0
.
Microbiology:
___ 11:30 pm ABSCESS

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0130. 
      THIS IS A CORRECTED REPORT (___). 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
                                    ___ SHORT CHAINS. 
                                   . 
      PREVIOUSLY REPORTED AS. 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS 
(___). 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    HEAVY GROWTH.  OF TWO COLONIAL 
MORPHOLOGIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED.
.
___ 9:40 pm BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
.
CT abdomen ___: 
1. Interval increase ___ size of a large soft tissue mass with 
destruction of the lumbosacral spine and right hemipelvis and 
increased involvement of the left hemisacrum and new pathologic 
fractures. The surgical hardware remains unchanged ___ 
orientation. 
2. Increased fluid tracking along the surgical incision site 
with mild neighboring stranding. Further evaluation of the 
spinal contents at this level is limited due to metallic streak 
artifacts. Underlying infection 
.
MRI Spine ___:
1. Interval growth of large right hemipelvic, lumbosacral soft 
tissue mass
with increasing displacement and compression of the sacral 
thecal sac as wellas increasing involvement of the lumbar thecal 
sac with intra-dural extension towards the L4/L5 level.
2. Since ___, new large proteinaceous fluid collection 
within the tumor bulk that likely represents necrosis, although 
an infectious component cannot entirely be excluded.
3. Since ___, resolution of subfascial fluid collection 
___ the dorsal paraspinal soft tissues at L5/S1. New small foci 
of peripherally enhancing fluid collections along the 
epifascial, subcutaneus aspect of the surgical tract. While the 
latter are concerning for small abscesses, none of those 
collections measures more than 15 mm.
.

___ 11:13PM BLOOD WBC-3.3* RBC-3.33* Hgb-8.7* Hct-28.0* 
MCV-84 MCH-26.1* MCHC-31.0 RDW-18.5* Plt ___
___ 11:13PM BLOOD Neuts-44.6* ___ Monos-10.5 
Eos-4.0 Baso-0.3
___ 11:13PM BLOOD ___ ___
___ 11:13PM BLOOD Glucose-84 UreaN-10 Creat-0.9 Na-141 
K-3.5 Cl-104 HCO3-30 AnGap-11
___ 11:13PM BLOOD Calcium-9.4 Phos-3.0 Mg-2.1
___ 06:20AM BLOOD CRP-80.4*
___ 06:20AM BLOOD ESR-102*
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with metastatic renal cell 
carcinoma and previous L4-S1 fusion with partial sacrectomy and 
sacro-iliac screw placement ___ late ___ of last year 
followed by XRT who presented to the ER with leg pain and pain 
at the incision site.  Patient was found to have a deep tissue 
infection at the incision site as well as a pathologic fracture.
.
#Cellulitis/Deep tissue infection: Patient presented with 
erythema, tenderness, warmth and drainage at surgical incision 
site.   MRI showed infection along the surgical tract as well as 
very small (largest 15mm) abscesses.  Discussed utility of going 
to the OR for drainage, debridment, but deferred since patient 
was responding so well to antibiotics. Initially, patient was 
treated with Vancomycin and responded well.  Wound culture was 
consistent with MSSA, so Vanco was d/c'ed and nafcillin 2mg IV 
q4 was started on ___. PICC was placed with plan to complete a 
4 day course of IV antibiotics.  The infectious disease team was 
following and Mr. ___ with follow up with ID after repeat MRI 
to re-evalaute extent of infection.  Of note, blood cultures 
remained negative.
.
#Renal Cell Carcinoma:  Patient was on Sutent on admission, 
followed by Dr. ___. Patient is scheduled 4 weeks on, 2 
weeks off, would be scheduled to begin again on ___. 
However, held off on chemotherapy ___ the setting of infection.
MRI of the abdomen/pelvis showed that the tumor ___ the pelvis 
has increased ___ size since the last imaging studies and was 
interfering with the hardware placed during prior surgery. The 
orthopedic team evaluated the patient to assess whether or not 
the tumor should be removed. Such a surgery would be extremely 
complicated and require a multidisciplinary team and extensive 
planning.  Thus, surgery was deferred during this admission and 
Mr. ___ will follow up with Dr. ___ and 
___ as an outpatient to further discuss 
the possibility of surgery.
.
#Right hip pain at the site of metastasis: Patient was found to 
have a pathologic fracture at site of R iliac bone.  Discussed 
this with orthopedic surgery, who felt that this is not a bone 
particularly affected by weight bearing with ambulation, so 
patient may ambulate as tolerated with a cane. Spoke with 
rad/onc regarding utility of radiating acetabular lesion; given 
prior radiation, did not think it would be beneficial to radiate 
more.  For pain control, continued home MS ___ and morphine 
___ for break through pain.
.
#GERD: Continued home PPI.
.
#Hypothyroidism: Continued home Synthroid.
.
#Neutropenia/Anemia/Thrombocytopeia: Secondary to chemotherapy; 
no role for neupogen during the admission.  Did not require any 
blood product infusions.
.
#Depression: Continued home zoloft and Ritalin.
.
TRANSITIONS OF CARE:
-FULL CODE
-Will continue Nafcillin 2g IV q4 for 4 week course
-Will have weekly CBC/diff, LFTs, Cr/BUN drawn as outpatient and 
results faxed to ___ clinic
-Will have repeat MRI and f/u with ID
-Will f/u with neurosurgery at ___

 
Medications on Admission:
Medications - Prescription
LANSOPRAZOLE [PREVACID] -  (Prescribed by Other Provider) - 30 
mg
Capsule, Delayed Release(E.C.) - 1 Capsule(s) by mouth daily
LEVOTHYROXINE -  (Prescribed by Other Provider) - 25 mcg Tablet 
-
1 Tablet(s) by mouth once a day
METHYLPHENIDATE -  (Prescribed by Other Provider) - 10 mg Tablet
- 1.5 Tablet(s) by mouth once a day
MORPHINE -  (Prescribed by Other Provider) - 15 mg Tablet - ___
Tablet(s) by mouth every four (4) hours as needed for
breakthrough pain
MORPHINE [MS CONTIN] -  (Prescribed by Other Provider) - 30 mg
Tablet Extended Release - 3 Tablet(s) by mouth twice a day 90 mg
BID
ONDANSETRON HCL -  (Prescribed by Other Provider) - 4 mg Tablet 
-
1 Tablet(s) by mouth every four (4) hours as needed for nausea
PREGABALIN [LYRICA] -  (Prescribed by Other Provider) - 150 mg
Capsule - ___ Capsule(s) by mouth twice a day 600 mg ___ the AM,
450 mg ___ the ___
SERTRALINE -  (Prescribed by Other Provider) - 100 mg Tablet - ___ Tablet(s) by mouth once a day
SUNITINIB [SUTENT] - 12.5 mg Capsule - 4 Capsule(s) by mouth
daily renal call carcinoma ICD 189.0
 
Medications - OTC
ACAI BERRY EXTRACT -  (Prescribed by Other Provider) - 500 mg
Capsule - 2 (Two) Capsule(s) by mouth once a day
ACETAMINOPHEN -  (Prescribed by Other Provider) - 500 mg Tablet 
-
2 Tablet(s) by mouth every eight (8) hours as needed for pain
ASCORBIC ACID [VITAMIN C] -  (Prescribed by Other Provider) -
1,000 mg Tablet - 1 (One) Tablet(s) by mouth once a day
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D] -  (Prescribed by Other
Provider) - Dosage uncertain
DIPHENHYDRAMINE HCL [BENADRYL] -  (Prescribed by Other Provider;
___) - 25 mg Capsule - 2 Capsule(s) by mouth at bedtime
DOCUSATE SODIUM [COLACE] -  (OTC) - 100 mg Capsule - 1 
Capsule(s)
by mouth twice a day
FLAXSEED OIL -  (Prescribed by Other Provider) - Dosage 
uncertain
IBUPROFEN -  (OTC) - 600 mg Tablet - 1 Tablet(s) by mouth ___
times per day as needed for pain
SENNOSIDES [SENNA] -  (Prescribed by Other Provider; ___) - 8.6
mg Capsule - 4 Capsule(s) by mouth twice a day 2 cap ___ AM and 4
cap at night
ZINC -  (Prescribed by Other Provider) - 50 mg Tablet - 1 (One)
Tablet(s) by mouth once a day

 
Discharge Medications:
1. nafcillin 2 gram Recon Soln Sig: One (1)  Intravenous every 
four (4) hours.
Disp:*128 doses* Refills:*2*
2. dressing changes
Please change ___ line dressing q7 days and prn soilage
3. Prevacid 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. levothyroxine 25 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. methylphenidate 10 mg Tablet Sig: 1.5 Tablets PO once a day.  

6. MS ___ 30 mg Tablet Extended Release Sig: Three (3) Tablet 
Extended Release PO twice a day.  
7. morphine 15 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.  
8. Zofran 4 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for nausea.  
9. pregabalin 150 mg Capsule Sig: ___ Capsules PO twice a day: 
600 mg ___ the AM,
450 mg ___ the ___.  
10. sertraline 100 mg Tablet Sig: 1.5 Tablets PO once a day.  
11. acai berry extract ___ mg Capsule Sig: Two (2) Capsule PO 
once a day.  
12. Acetaminophen Extra Strength 500 mg Tablet Sig: Two (2) 
Tablet PO every eight (8) hours as needed for pain.  
13. Vitamin C 1,000 mg Tablet Sig: One (1) Tablet PO once a day. 
 
14. Vitamin D-3  Oral
15. Benadryl 25 mg Capsule Sig: One (1) Capsule PO at bedtime.  
16. senna 8.6 mg Tablet Sig: ___ Tablets PO twice a day: 4 
Capsule(s) by mouth twice a day 2 cap ___ AM and 4
cap at night.  
17. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
18. flaxseed oil  Oral
19. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed for pain.  
20. zinc 50 mg Tablet Sig: One (1) Tablet PO once a day.  
21. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.
Disp:*30 packets* Refills:*2*
22. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day) as needed for constipation.
Disp:*900 ML(s)* Refills:*2*
23. Outpatient Lab Work
-Please check on ___: AST,ALT,Alk phos, Tbili, Cr, BUN, CBC 
with diff, ESR,CRP 
-Fax results to the infectious disease clinic, attention Dr. 
___: ___

24. Outpatient Lab Work
-Please check on ___: AST,ALT,Alk phos, Tbili, Cr, BUN, CBC 
with diff, ESR,CRP 
-Fax results to the infectious disease clinic, attention Dr. 
___: ___

25. Outpatient Lab Work
-Please check on ___: AST,ALT,Alk phos, Tbili, Cr, BUN, CBC 
with diff, ESR,CRP 
-Fax results to the infectious disease clinic, attention Dr. 
___: ___

26. Outpatient Lab Work
-Please check on ___: AST,ALT,Alk phos, Tbili, Cr, BUN, CBC 
with diff, ESR,CRP 
-Fax results to the infectious disease clinic, attention Dr. 
___: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Cellulitis/deep tissue infection at surgical site
Renal cell carcinoma 
Fracture of left pelvis
.
Secondary:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
.
You were admitted to the hospital with an infection of the 
surgical site of your back.  You had a CAT scan as well as an 
MRI to evaluate the extent of the infection.  The imaging showed 
that the infection was tracking along the surgical site.  
However, there was no large pocket of pus to drain.  You were 
started on intravenous antibiotics and responded well - the 
redness, warmth, tenderness and drainage all improved.  Because 
of this, it was determined that you did not need surgical 
intervention to treat the infection.  On discharge, you will 
continue IV antibiotics as per instructions below.
.
The MRI also showed that the tumor ___ your pelvis has increased 
___ size since the last imaging studies and was interfering with 
the hardware placed during your surgery.  The orthopedic 
surgeons evaluated you to assess whether or not the tumor should 
be removed. Such a surgery would be extremely complicated and 
require a multidisciplinary team and extensive planning. You 
should follow up with Dr. ___ and ___ 
___ as an outpatient to further discuss the 
possibility of surgery.
.
The CAT scan also showed a fracture ___ your left pelvis, which 
is a pathalogic fracture from cancer ___ your bone.  The 
orthopedic surgeons evaluated you for this as well and provided 
you with instructions on activity limitations.  The radiation 
oncology team also saw you to assess whether or not more 
radiation would be beneficial.  It was felt that since you had 
already received a large dose of radiation, additional treatment 
would not be helpful.
.
We have scheduled multiple appointments for you on ___, 
please see below.
.
We have started you on the following medications:
-START Nafcillin 2mg IV every 4 hours
-STOP Sunitibin (Sutent) ___ the setting of an infection
-START Miralax and Lactulose for constipation (prescriptions 
provided)
.
You should also have your blood work checked weekly and results 
faxed to the infectious disease clinic at ___.  
Prescriptions for lab draws provided.
.
It was a pleasure taking care of you, we wish you all the best.
 
Followup Instructions:
___